US05478845
To 6-Trifluoroacetamidobenzothiazole (1.97 g, 8 mmol) in 40 ml dry acetone was added methyl iodide (4.54 g, 32 mmol) and then KOH (2.1 g, 32 mmol). The mixture was refluxed for 40 min. and concentrated in vacuo. The product was taken up in 40 ml H2O, refluxed for 40 min. and extracted with methylene chloride. The organic phase was washed with water, dried over Na2SO4 and concentrated in vacuo. The product was purified by flash chromatography (silica gel, methylene chloride) to give 250 mg 6-methylamino-benzothiazole.

reactant | 6-Trifluoroacetamidobenzothiazole | 8 mmol, 1.97 g | FC(C(=O)NC1=CC2=C(N=CS2)C=C1)(F)F | C9H5F3N2OS
reactant | methyl iodide | 32 mmol, 4.54 g | CI | CH3I
reactant | KOH | 32 mmol, 2.1 g | [OH-].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 6-methylamino-benzothiazole | 250 mg | CNC1=CC2=C(N=CS2)C=C1 | C8H8N2S
